US04036984
Pentadecanoic acid (24.2g) was treated with thionyl chloride (13.1g) at 80°-90° C. Pentadecanoyl chloride, thus obtained, was added slowly under ice cooling into the mixture of β-phenoxyethylalcohol (13.8g), pyridine (10.3g) and benzene (100ml) with stirring. After having been stirred, the reaction mixture was treated with an ordinary method (washed with dilute hydrochloric acid, the benzene layer was dried over Glauber's salt, and then benzene was removed under reduced pressure, giving a crude product). Solid (33g) was obtained. The solid was recrystalized from n-hexane, from which it formed colourless crystals (26g), m.p. 45.0°-47.0° C., of β-phenoxyethyl pentadecanoate.

reactant | Pentadecanoic acid | 24.2g | C(CCCCCCCCCCCCCC)(=O)O | C15H30O2
reactant | thionyl chloride | 13.1g | S(=O)(Cl)Cl | Cl2OS
product | Pentadecanoyl chloride | C(CCCCCCCCCCCCCC)(=O)Cl | C15H29ClO
